### ISSUE TITLE
lp: 2-variable, 2-constraint LP returns "solver outcome was unchecked: optimal"

### ISSUE THREAD

**Issue by kim-em** [kim-em/soplex#56]
After #55, the `lp` tactic still fails on a minimal LP that any solver should handle. SoPlex returns `optimal` but the in-Lean `checkOptimal` verifier rejects the certificate, falling into the `.unchecked .optimal` branch of `verifyOutcome` ([Soplex/Verify/Driver.lean:85](https://github.com/kim-em/soplex/blob/main/Soplex/Verify/Driver.lean#L85)).

```lean
import Soplex
import Mathlib.Tactic.Linarith

-- Two-variable LP with integer-coefficient Farkas certificate (1·h₁ + 1·h₂).
example (a b : Rat) (h₁ : 2 * a + b ≤ 4) (h₂ : a - b ≤ 1) : 3 * a ≤ 5 := by linarith  -- ✓
example (a b : Rat) (_h₁ : 2 * a + b ≤ 4) (_h₂ : a - b ≤ 1) : 3 * a ≤ 5 := by lp      -- ✗
```

Error on the `lp` line: `lp: solver outcome was unchecked: Soplex.SolveStatus.optimal`.

The certificate is integer-coefficient: `1·h₁ + 1·h₂` gives `3a ≤ 5` directly. Sweeping the constants shows the failure is data-dependent:

```lean
example (a b : Rat) (_h₁ : 2 * a + b ≤ 5) (_h₂ : a - b ≤ 1) : 3 * a ≤ 6 := by lp  -- ✓
example (a b : Rat) (_h₁ : 2 * a + b ≤ 2) (_h₂ : a - b ≤ 1) : 3 * a ≤ 3 := by lp  -- ✓
example (a b : Rat) (_h₁ : 2 * a + b ≤ 4) (_h₂ : a - b ≤ 1) : 3 * a ≤ 5 := by lp  -- ✗
example (a b : Rat) (_h₁ : 2 * a + b ≤ 1) (_h₂ : a - b ≤ 1) : 3 * a ≤ 2 := by lp  -- ✗
example (a b : Rat) (_h₁ : 2 * a + b ≤ 3) (_h₂ : a - b ≤ 1) : 3 * a ≤ 4 := by lp  -- ✗
example (a b : Rat) (_h₁ : 2 * a + b ≤ 10) (_h₂ : a - b ≤ 1) : 3 * a ≤ 11 := by lp -- ✗
```

So the trigger is neither goal shape, hypothesis count, nor variable count. Suggests a certificate-splicing bug in the new reconstruction path, or a mismatch between SoPlex's canonicalisation and the Lean verifier's expected canonical form.

Discovered while preparing a `lp` vs `linarith` comparison over LP test problems; reproducer setup is in `/tmp/lp-comparison/` (Soplex@dedb94f, Mathlib v4.29.1).
